US04035495
N-(2-Hydroxyphenyl)pyrrole (2, R1 = H and X1 = OH)
A mixture of 2,5-dimethoxytetrahydrofuran (39.6 g), o-aminophenol (36 g), dioxane (300 ml), and glacial acetic acid (180 ml) are heated under reflux for 4 hr. The solvents are removed and the residue distributed between ethyl acetate and 5% NaHCO3. The organic phase is washed with water, dried (MgSO4), filtered, and evaporated. The dark oily residue is subjected to chromatography on 2 kg of silica and eluted with chloroform to afford an oil. After being covered with hexane and stored for several days, the oil solidifies giving the title compound, m.p. 52° - 54° C. (Reported m.p. by Artico, et al., cited above, 45° - 47° C).

reactant | 2,5-dimethoxytetrahydrofuran | 39.6 g | COC1OC(CC1)OC | C6H12O3
reactant | o-aminophenol | 36 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | dioxane | 300 ml | O1CCOCC1 | C4H8O2
reactant | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | N-(2-Hydroxyphenyl)pyrrole | OC1=C(C=CC=C1)N1C=CC=C1 | C10H9NO
